US09101616B2
Step-6: 3-(2,2,2-trifluoroethoxy)-6,7-dihydroquinolin-8(5H)-one oxime
A mixture of 3-(2,2,2-trifluoroethoxy)-6,7-dihydroquinolin-8(5H)-one (155 mg, 0.63 mmol), hydroxylamine hydrochloride (88 mg, 1.3 mmol), and sodium acetate (104 mg, 1.3 mmol) in ethanol-water (3:1, 4 mL) was refluxed with stirring for 2 hours. After cooling to room temperature, the mixture was poured into water, and the aqueous layer was extracted with dichloromethane (twice). The combined organic layers were dried over Magnesium sulfate and concentrated in vacuo to give 167 mg of the crude title compound as a brown solid. This was used for the next step without purification:

reactant | 3-(2,2,2-trifluoroethoxy)-6,7-dihydroquinolin-8(5H)-one | 0.63 mmol, 155 mg | FC(COC=1C=NC=2C(CCCC2C1)=O)(F)F | C11H10F3NO2
reactant | hydroxylamine hydrochloride | 1.3 mmol, 88 mg | Cl.NO
reactant | sodium acetate | 1.3 mmol, 104 mg | C(C)(=O)[O-].[Na+]
reactant | water | O | H2O
solvent | ethanol water | 4 mL | C(C)O.O
product | 3-(2,2,2-trifluoroethoxy)-6,7-dihydroquinolin-8(5H)-one oxime | 167 mg | FC(COC=1C=NC=2C(CCCC2C1)=NO)(F)F | C11H11F3N2O2
